US08420655B2
To a mixture of impure 5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester (900 mg) in THF (10.0 mL) is added a solution of 2M LiBH4 in THF (3.6 mL, 7.2 mmol). The reaction mixture is stirred at room temperature for 16 hours and then quenched with 1M HCl aq (50 mL). The quenched reaction mixture is extracted with EtOAc (50 mL×2) and the combined organic layers are dried with Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 35% EtOAc in heptanes as the eluent to afford [5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-methanol (78 mg) and the regiosiomer [4-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-methanol (60 mg).

reactant | 5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester | 900 mg | COC(C1=C(C=CC(=C1)Cl)C1=NC(=NO1)C)=O | C11H9ClN2O3
reactant | LiBH4 | 2M | [Li+].[BH4-]
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 7.2 mmol, 3.6 mL | C1CCOC1 | C4H8O
product | [5-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-methanol | 78 mg | ClC=1C=CC(=C(C1)CO)C1=NC(=NO1)C | C10H9ClN2O2
